US09340546B2
A solution of LiAlH4 (49.57 mg, 1.306 mmol) was added dropwise to a solution of tert-butyl N-[1-(3-amino-4-pyridyl)-4-piperidyl]-N-methyl-carbamate (100 mg, 0.3264 mmol) in THF at room temp. The reaction was stirred at 50° C. for 3 h, then at room temperature, the reaction mixture was quenched by the dropwise addition of wet THF. The reaction mixture was partitioned between 1N NaOH (50 mL) and diethyl ether (50 mL). The combined organics was dried (MgSO4) and evaporated to leave 4-(4-(dimethylamino)piperidin-1-yl)pyridin-3-amine as a yellow oil. MS (ES+) 221.1.

reactant | LiAlH4 | 1.306 mmol, 49.57 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | tert-butyl N-[1-(3-amino-4-pyridyl)-4-piperidyl]-N-methyl-carbamate | 0.3264 mmol, 100 mg | NC=1C=NC=CC1N1CCC(CC1)N(C(OC(C)(C)C)=O)C | C16H26N4O2
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4-(dimethylamino)piperidin-1-yl)pyridin-3-amine | CN(C1CCN(CC1)C1=C(C=NC=C1)N)C | C12H20N4
